US07524965B2
To a solution of biphenyl-2-ylcarbamic acid 1-[2-(4-iodo-2,5-dimethylphenylcarbamoyl)ethyl]piperidin-4-yl ester (56 g, 94 mmol) in a 5:1 v/v mixture of N,N-dimethylformamide and methanol (600 mL) were added diispropylethylamine (49 mL, 281 mmol), 1,3-bis(diphenylphosphino)propane (3.9 g, 9.4 mmol) and palladium(II) acetate (2.1 g, 9.4 mmol). The resulting mixture was purged with carbon monoxide and then stirred overnight at 70° C. to 80° C. under a carbon monoxide atmosphere (balloon pressure). The reaction mixture was concentrated under vacuum and the residue was dissolved in dichloromethane (500 mL). This mixture was washed with 1N aqueous hydrochloric acid (500 mL), water (500 mL) and then brine (500 mL). The organic layer was then dried over anhydrous magnesium sulfate, filtered and then concentrated under vacuum. The residue was mixed with ethanol (about 5:1 v/w ethanol to residue) and the mixture was heated until all solid material dissolved. This solution was allowed to slowly cool to room temperature and the resulting precipitate was isolated by filtration to afford 4-{3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionylamino}-2,5-dimethylbenzoic acid methyl ester (47.3 g, 97% purity, 92% yield). m/z: [M+H+] calcd for C31H35N3O5 530.63; found 530.4.

reactant | biphenyl-2-ylcarbamic acid 1-[2-(4-iodo-2,5-dimethylphenylcarbamoyl)ethyl]piperidin-4-yl ester | 94 mmol, 56 g | IC1=CC(=C(C=C1C)NC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C | C29H32IN3O3
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | 1,3-bis(diphenylphosphino)propane | 9.4 mmol, 3.9 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | methanol | 600 mL | CO | CH4O
catalyst | palladium(II) acetate | 9.4 mmol, 2.1 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-{3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionylamino}-2,5-dimethylbenzoic acid methyl ester | 47.3 g, 92% yield | COC(C1=C(C=C(C(=C1)C)NC(CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)=O)C)=O | C31H35N3O5
